US05008263
7,8-Dimethyl-2-hydrazino-4-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-3H-[1,5]benzodiazepine
A mixture of 2,3-dihydro-7,8-dimethyl-4-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-1H-[1,5]benzodiazepine-2-thione (411 mg, 1.0 mmol), hydrazine hydrate (60 mg, 1.2 mmol) and p-toluenesulphonic acid (10 mg) in n-butanol (5 ml) was heated at 100° C. for 1.5 hours. The solvent was removed under reduced pressure and the crude product was used directly for Examples 29-31.

reactant | 2,3-dihydro-7,8-dimethyl-4-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-1H-[1,5]benzodiazepine-2-thione | 1.0 mmol, 411 mg | CC1=CC2=C(NC(CC(=N2)C2=CC=C(C=C2)N2C(=NC=3C=NC=CC32)C)=S)C=C1C | C24H21N5S
reactant | hydrazine hydrate | 1.2 mmol, 60 mg | O.NN
reactant | p-toluenesulphonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | n-butanol | 5 ml | C(CCC)O | C4H10O
product | 7,8-Dimethyl-2-hydrazino-4-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)phenyl]-3H-[1,5]benzodiazepine | CC1=CC2=C(N=C(CC(=N2)C2=CC=C(C=C2)N2C(=NC=3C=NC=CC32)C)NN)C=C1C | C24H23N7
